US08895571B2
Step C: tert-butyl {(1S)-2-hydroxy-1[(2-methoxypyridin-4-yl)methyl]ethyl}carbamate
To a solution of (2S)-2-[(tert-butoxycarbonyl)amino]-3-(2-methoxypyridin-4-yl)propanoic acid (1.3 g, 4.4 mmol) in tetrahydrofuran (5.0 mL) with stirring, 1.0 M borane-THF complex in THF (13 mL) was added dropwise to keep the internal temperature at 0° C. (about 15 min). After addition, the mixture was stirred at rt for 3 h, cooled with an ice-bath, quenched with AcOH:MeOH (1:5, 5 mL), partitioned between saturated aqueous NaHCO3 and DCM, dried over Na2SO4, filtered, and evaporated under reduced pressure to give 0.5 g (40% yield) of the desired product. LC-MS found: 283.0 (M+H)+.

reactant | (2S)-2-[(tert-butoxycarbonyl)amino]-3-(2-methoxypyridin-4-yl)propanoic acid | 4.4 mmol, 1.3 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC(=NC=C1)OC | C14H20N2O5
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
solvent | THF | 13 mL | C1CCOC1 | C4H8O
product | tert-butyl {(1S)-2-hydroxy-1[(2-methoxypyridin-4-yl)methyl]ethyl}carbamate | 0.5 g, 40% yield | OC[C@H](CC1=CC(=NC=C1)OC)NC(OC(C)(C)C)=O | C14H22N2O4
